US06200988B1
N-(1-Acetyl-5-chloromethyl-4,6-dimethylindolin-7-yl)-2,2-dimethyl-propanamide (2.0 g) was dissolved in CHCl3 (40 ml) and (CH3)2NH. HCl (3.5 g) and K2CO3 (11.8 g) were added, which was followed by stirring at room temperature for 4 hr. CHCl3 (300 ml) was added, and the mixture was washed successively with 2N-hydrochloric acid, 2N aqueous NaOH and saturated brine, and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3/MeOH=10/1−1/1) to give 700 mg of N-(1-acetyl-5-dimethylaminomethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide.

reactant | N-(1-Acetyl-5-chloromethyl-4,6-dimethylindolin-7-yl)-2,2-dimethyl-propanamide | 2.0 g | C(C)(=O)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CCl)C | C18H25ClN2O2
reactant | HCl | 3.5 g | Cl | ClH
reactant | K2CO3 | 11.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (CH3)2NH | N(C)C | C2H7N
solvent | CHCl3 | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-acetyl-5-dimethylaminomethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 700 mg | C(C)(=O)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CN(C)C)C | C20H31N3O2
